US04824951
2-(4-Bromophenyl)-N-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A solution of 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.5 g, 0.0166 mole) and 1,1'-carbonyldiimidazole (2.7 g, 0.016 mole) in anhydrous tetrahydrofuran (100 ml) was stirred at room temperature with a stream of nitrogen bubbling through it for 21/2 hours. The nitrogen flow was stopped and a solution of monomethylamine (1M in tetrahydrofuran) (33 ml) was added. The solution was stoppered and stirred at room temperature for 16 hours. The reaction mixture was concentrated in vacuo and the residue triturated in ater (100 ml) and filtered. The filter cake (5.5 g, 96%) was recrystallized from tetrahydrofuran-ethanol to give 3.0 g of a white flocculent solid, mp 258°-259° C. after forming a polymorph from 250°-255° C.

reactant | 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0166 mole, 5.5 g | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10BrN3O2
reactant | 1,1'-carbonyldiimidazole | 0.016 mole, 2.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | monomethylamine | 1M, 33 ml | CN | CH5N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(4-Bromophenyl)-N-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC | C15H13BrN4O
